US05506191
f) Preparation of 2-(pyrazol-3-yl)-nicotinic acid sodium salt
2.61 g of 2-(pyrazol-3-yl)-nicotinic acid ethyl ester are dissolved in 20 ml of methanol and 0.5 g of NaOH in 5 ml of water added. After standing for 1 hr the methanol is removed under vacuum and an additional 0.07 g of NaOH added and dissolved by warming. After standing for 1 hr the mixture is diluted with H2O to 20 ml and divided into 4 aliquots of 5 ml. Each aliquot is chromatographed on Waters C18 sep. pak cartridge with 5 ml MeOH and 5 ml H2O each. The aqueous phases are combined, adjusted to pH 7.7 with HCl and freeze dried to give the title compound, m.p. 260°.

reactant | 2-(pyrazol-3-yl)-nicotinic acid ethyl ester | 2.61 g | C(C)OC(C1=C(N=CC=C1)C1=NNC=C1)=O | C11H11N3O2
reactant | NaOH | 0.5 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-(pyrazol-3-yl)-nicotinic acid sodium salt | [Na+].N1N=C(C=C1)C1=C(C(=O)[O-])C=CC=N1 | InChI=1S/C9H7N3O2.Na/c13-9(14)6-2-1-4-10-8(6)7-3-5-11-12-7;/h1-5H,(H,11,12)(H,13,14);/q;+1/p-1
